US03944557
3.2 gms (.01 mole) of 2-amino-1-n-butyl-4-n-butylamino-6-chloro-5-cyano-pyridinium chloride (compound 6 - Table 1) was dissolved in hot water, 4.0 gms (0.04 mole) of triethylamine added and the solution refluxed on a boiling water bath. After 2 hours 2.0 gms (75% yield) of 2-amino-1-n-butyl-4-n-butylamino-5-cyano-pyridine-6-one (compound 87 - Table 6) had precipitated and was filtered off. (MPt 177° - 179°C).

reactant | 2-amino-1-n-butyl-4-n-butylamino-6-chloro-5-cyano-pyridinium chloride | .01 mole, 3.2 gms | [Cl-].NC1=[N+](C(=C(C(=C1)NCCCC)C#N)Cl)CCCC
reactant | triethylamine | 0.04 mole, 4.0 gms | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
product | 2-amino-1-n-butyl-4-n-butylamino-5-cyano-pyridine-6-one | 2.0 gms, 75% yield | NC=1N(C(C(=C(C1)NCCCC)C#N)=O)CCCC | C14H22N4O
